US08802688B2
Step 3. 3-(methylcarbamoyl)-1H-indazole-5-carboxylic acid
To a solution of methyl 3-(methylcarbamoyl)-1H-indazole-5-carboxylate (400 mg, 1.7 mmol) in methanol (10 mL) and water (10 mL), was added lithium hydroxide monohydrate (0.36 g, 8.5 mmol). The reaction was heated to 60° C. and was stirred overnight. The methanol was removed under reduced pressure and the remaining residue was acidified to pH=4 with 1 N aqueous hydrochloric acid. The resulting precipitate was collected by filtration and dried under vacuum to give the title compound (350 mg, 94%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6, δ): 13.99 (s, 1 H), 8.85 (s, 1 H), 8.47-8.48 (m, 1 H), 7.94-7.96 (m, 1 H), 7.65-7.68 (m, 1 H), 2.82 (d, J=4.4 Hz, 3 H).

reactant | methyl 3-(methylcarbamoyl)-1H-indazole-5-carboxylate | 1.7 mmol, 400 mg | CNC(=O)C1=NNC2=CC=C(C=C12)C(=O)OC | C11H11N3O3
reactant | lithium hydroxide monohydrate | 8.5 mmol, 0.36 g | O.[OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-(methylcarbamoyl)-1H-indazole-5-carboxylic acid | 350 mg, 94% | CNC(=O)C1=NNC2=CC=C(C=C12)C(=O)O | C10H9N3O3
